US05641788
According to the same manner as that described in Example 4, 3-benzoyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline was reacted with 2-mercapto-1-methylimidazole to give 3-benzoyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-[(1-methylimidazol-2-yl)thiomethyl]quinoline. This compound was recrystallized from ethanol to give colorless prisms. mp. 185°-186° C.

reactant | 3-benzoyl-2-bromomethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CBr | C27H24BrNO5
reactant | 2-mercapto-1-methylimidazole | SC=1N(C=CN1)C | C4H6N2S
product | 3-benzoyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxy-2-[(1-methylimidazol-2-yl)thiomethyl]quinoline | C(C1=CC=CC=C1)(=O)C=1C(=NC2=CC(=C(C=C2C1C1=CC(=C(C=C1)OC)OC)OC)OC)CSC=1N(C=CN1)C | C31H29N3O5S
